US07674789B2
3-{8-(2,6-difluorophenyl)-2-[(1-methyl-4-piperidinyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide (10 mg, 0.018 mmol) in THF (5 mL) were added 1-methyl-4-piperidinamine (10 mg, 0.088 mmol) and N,N-diisopropylethylamine (0.1 mL, 0.574 mmol). The resultant solution was stirred at room temperature over might. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (9 mg, 83%). LC-MS m/z 602 (M+H)+; 1H-NMR (MeOD) δ 1.47 (m, 2H), 1.84 (m, 4H), 2.24 (s, 3H), 2.33 (s, 3H), 2.79 (m, 2H), 3.20 (m, 1H), 4.13 (s, 2H), 7.15 (m, 4H), 7.53 (m, 2H), 7.72 (m, 2H), 7.82 (s, 1H), 7.98 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 0.018 mmol, 10 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)S(=O)C)=O | C27H20F3N5O3S
reactant | 1-methyl-4-piperidinamine | 0.088 mmol, 10 mg | CN1CCC(CC1)N | C6H14N2
reactant | N,N-diisopropylethylamine | 0.574 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-{8-(2,6-difluorophenyl)-2-[(1-methyl-4-piperidinyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide | 9 mg, 83% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)NC2CCN(CC2)C)=O | C32H30F3N7O2
